US07582773B2
Step 1: Synthesis of [4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol (0.300 g, 0.673 mmol) was reacted with K2CO3 (0.121 g, 0.875 mmol) and methyl bromoacetate (0.134 g, 0.875 mmol) in acetone (10 ml) to give the product (0.296 g, 0.572 mmol, 85%) as a white, waxy solid, mp 106-109° C. 1H NMR (DMSO-d6) δ 0.72 (t, J=7.0 Hz, 3H), 1.09-1.19 (m, 4H), 1.49-1.56 (m, 2H), 2.64 (t, J=7.5 Hz, 2H), 3.68 (s, 3H), 4.79 (s, 2H), 5.23 (s, 2H), 6.79-6.81 (m, 2H), 6.97 (d, J=8.9 Hz, 2H), 7.09-7.18 (m, 3H), 7.29-7.34 (m, 4H), 7.37-7.47 (m, 3H), 7.55 (d, J=8.9 Hz, 2H), 7.72 (d, J=0.7 Hz, 1H); [ESI(+)], m/z 519 (M+H)+.

reactant | 4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol | 0.673 mmol, 0.300 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CCCCC)C1=CC=CC=C1 | C32H31NO
reactant | K2CO3 | 0.875 mmol, 0.121 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 0.875 mmol, 0.134 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [4-(1-Benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C1=CC=CC=C1)CCCCC)=O | C35H35NO3
